US07205302B2
2-{4-[N-allyl-N-(5,6-diphenylpyrazin-2-yl)amino]butyloxy}acetic acid tert-butyl ester
In the same manner as in Example 22, except that 2-allylamino-5,6-diphenylpyrazine was used in place of 5,6-diphenyl-2-(methylamino)pyrazine and 2-(4-bromobutyloxy)acetic acid tert-butyl ester was used in place of 2-(4-bromobutyloxy)acetic acid methyl ester, the desired compound was prepared as a pale yellow oily substance.

reactant | 2-allylamino-5,6-diphenylpyrazine | C(C=C)NC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C19H17N3
reactant | 2-(4-bromobutyloxy)acetic acid tert-butyl ester | C(C)(C)(C)OC(COCCCCBr)=O | C10H19BrO3
product | 2-{4-[N-allyl-N-(5,6-diphenylpyrazin-2-yl)amino]butyloxy}acetic acid tert-butyl ester | C(C)(C)(C)OC(COCCCCN(C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1)CC=C)=O | C29H35N3O3
